US05021421
Preparation of 4-(4-fluorophenyl)-1,5,6,7,8,9-hexahydro-2H-6,9-methanocyclohepta[b]pyridin-2-one
Bicyclo[3.2.1]octan-2-one (2 g) and 4-fluorobenzoylacetonitrile (2.6 g) are dissolved in 1,1,2,2-tetrachloroethane (5 ml) and thereto is added 75% polyphosphoric acid (25 g). The mixture is stirred at 80° C. for 30 minutes, at 100° C. for 1 hour, and further at 130° C. for 30 minutes. After cooling, the reaction mixture is poured into ice-water and neutralized with potassium carbonate. The precipitated crystals are collected by filtration and washed successively with water and ethyl acetate. The resultant is recrystallized from methanol to give the desired product (2.7 g), m.p.>300° C.

reactant | Bicyclo[3.2.1]octan-2-one | 2 g | C12C(CCC(CC1)C2)=O | C8H12O
reactant | 4-fluorobenzoylacetonitrile | 2.6 g | FC1=CC=C(C(=O)CC#N)C=C1 | C9H6FNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,1,2,2-tetrachloroethane | 5 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | 4-(4-fluorophenyl)-1,5,6,7,8,9-hexahydro-2H-6,9-methanocyclohepta[b]pyridin-2-one | 2.7 g | FC1=CC=C(C=C1)C=1C2=C(NC(C1)=O)C1CCC(C2)C1 | C17H16FNO
